US05278326
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-heptadecanamide
The title compound was prepared from 2-hexadecanone (5.0 g, 0.018 ml), 2,6-diisopropylphenyl isocyanate (3.72 g, 0.018 mol), and lithium diisopropylamide (0.018 mol) using the procedure described in Example 1. The desired product was obtained in 80% yield (6.38 g, 0.014 mol). MS: 443 (M+).

reactant | 2-hexadecanone | 0.018 ml, 5.0 g | CC(CCCCCCCCCCCCCC)=O | C16H32O
reactant | 2,6-diisopropylphenyl isocyanate | 0.018 mol, 3.72 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.018 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-heptadecanamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(CCCCCCCCCCCCCC)=O)=O | C29H49NO2
